US08207147B2
4-(5-Pyridin-4-yl-[1,3,4]thiadiazol-2-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester
4-{2-Oxo-2-[N′-(pyridine-4-carbonyl)hydrazino]ethoxy}piperidine-1-carboxylic acid tert-butyl ester (Preparation 16) was treated with Lawesson's reagent in a similar manner to that described in Example 138, affording the title compound: RT=3.47 min, m/z (ES+)=377.1 [M+H]+.

reactant | 4-{2-Oxo-2-[N′-(pyridine-4-carbonyl)hydrazino]ethoxy}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(NNC(=O)C1=CC=NC=C1)=O | C18H26N4O5
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 4-(5-Pyridin-4-yl-[1,3,4]thiadiazol-2-ylmethoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC=1SC(=NN1)C1=CC=NC=C1 | C18H24N4O3S
